* Bounded late-time minimal event: native translated TI COMPHYS input state.
.include ../driver-vendor-comphys-native-candidate/authored_logic_vendor_comphys_native.inc
Vaux aux15 0 15
Vdisable disable 0 0
* Explicit breakpoints bracket the observed full-plant PWM boundary near 501.55 ms.
Vpwm pwm_input 0 PWL(0 0 0.501554000 2.199000000 0.501554800 2.19998914099 0.501554900 2.19998914099 0.501554914 2.200200000 0.501555000 2.200200000 0.501558000 2.200200000)
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_HV
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
Cgd gate sw 112p
Csw sw 0 344p
.options method=trap reltol=2e-4 abstol=1e-10 vntol=1e-7
.save time v(pwm_input) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req) v(xdriver.drv_delay) v(driver_out) v(gate)
.tran 500u 0.501558 0 500u uic
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
rusage tranpoints traniter rejected trantime
wrdata native-comphys-late.tsv v(pwm_input) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req) v(xdriver.drv_delay) v(driver_out) v(gate)
quit
.endc
.end
