* Bounded late-501 ms PWM-threshold reproduction using the captured boundary.
.include authored_logic_hysteretic.inc
.param EDGE=501.554914485680681m
Vaux aux15 0 15
Vdisable disable 0 104.086126m
* One fresh PWM rise through the authored 2.2 V input threshold.
Vpwm pwm_input 0 PWL(0 0 {EDGE-1u} 0 {EDGE} 2.199989140991965 {EDGE+1p} 2.2002 {EDGE+200n} 2.2002)
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_H
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
Cgd gate 0 112p
Csw gate 0 344p
.options method=trap reltol=2e-4 abstol=1e-10 vntol=1e-7
.save time v(pwm_input) v(driver_out) v(gate) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req) v(xdriver.drv_delay)
.tran 1n {EDGE+200n} {EDGE-20n} 1m
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
rusage tranpoints traniter rejected
wrdata recorded-steep-rise.tsv v(pwm_input) v(driver_out) v(gate) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req) v(xdriver.drv_delay)
quit
.endc
.end
