* Expected-negative control: the original/reversed polarity does not clamp
* a negative shunt.  The negative pin excursion must fail the -1.1 V limit.
.include clamp.inc
VSHUNT shunt 0 DC -5
R_ISENSE shunt isense 220
DREVERSED isense 0 BAV23C_TYP
.op
.print op v(shunt) v(isense) i(R_ISENSE) i(DREVERSED)
.end
