Two-FET source standby topology exercise
.include standby-broken.inc
Vaux aux15 0 PWL(0 0 1u 15)
Vbus vb 0 389.615384615
Rtop vb vsense 1meg
Rbottom vsense 0 13k
Cfb vsense 0 680p IC=0
Vpermit permit_src 0 PWL(0 0 99u 0 100u 5 249u 5 250u 0 399u 0 400u 5)
Vconnect connected 0 PWL(0 5 499u 5 500u 0)
Spermit permit_src permit connected 0 LINK
.model LINK SW(Ron=.01 Roff=1e12 Vt=2.5 Vh=.1)
Xstandby aux15 permit vsense 0 PFC_STANDBY
.options method=gear reltol=1e-5 abstol=1e-12
.tran 100n 800u 0 100n uic
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
wrdata standby-broken.tsv v(aux15) v(permit) v(vsense) v(xstandby.inhibit_gate) v(xstandby.permit_gate)
quit
.endc
.end
